US05922727
A mixture of 5-ethyl-6-phenylthio-2,4-pyrimidinedione (0.16 g, 0.66 mmol) and (5-t-butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl bromide (0.20 g, 0.66 mmol) in dimethylformamide (10 ml) were heated at 50° C. for overnight in the presence of sodium bicarbonate (66 mg, 0.79 mmol). After the concentration of dimethylformamide, [(5-t-butyldimethylsilyloxymethyl cyclopent-1-en-1-yl)methyl]-5-ethyl-6-phenylthio-2,4-pyrimidinedione was obtained by the separation of the column chromatography. And then, this compound in THF (10 ml) was reacted with n-tetrabutylammoniumfluoride at room temperature for 1 hr. After the concentration of THF, the residue was separated by column chromatography to give a desirable product (35 mg).

reactant | 5-ethyl-6-phenylthio-2,4-pyrimidinedione | 0.66 mmol, 0.16 g | C(C)C=1C(NC(NC1SC1=CC=CC=C1)=O)=O | C12H12N2O2S
reactant | (5-t-butyldimethylsilyloxymethylcyclopent-1-en-1-yl)methyl bromide | 0.66 mmol, 0.20 g | [Si](C)(C)(C(C)(C)C)OCC1CCC=C1CBr | C13H25BrOSi
reactant | sodium bicarbonate | 0.79 mmol, 66 mg | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | [(5-t-butyldimethylsilyloxymethyl cyclopent-1-en-1-yl)methyl]-5-ethyl-6-phenylthio-2,4-pyrimidinedione | [Si](C)(C)(C(C)(C)C)OCC1CCC=C1CN1C(NC(C(=C1SC1=CC=CC=C1)CC)=O)=O | C25H36N2O3SSi
